US09145407B2
tert-Butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate
tert-Butyl piperazine-1-carboxylate (24.0 mg, 0.13 mmol) was added to a mixture of 4-chloro-2-(2-chloropyrimidin-4-yl)phenol (Preparation 1, 30.1 mg, 0.13 mmol), and triethylamine (61.2 uL, 0.44 mmol) in isopropyl alcohol (0.2 mL). The reaction mixture was stirred at ambient temperature. After 18 hours, LCMS analysis indicated the reaction was not complete. The reaction mixture was heated for 30 minutes at 70° C. then cooled to ambient temperature. The reaction mixture was diluted with ethyl acetate, washed with water then brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a light brown paste (50 mg).

reactant | tert-Butyl piperazine-1-carboxylate | 0.13 mmol, 24.0 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-chloro-2-(2-chloropyrimidin-4-yl)phenol | 0.13 mmol, 30.1 mg | ClC1=CC(=C(C=C1)O)C1=NC(=NC=C1)Cl | C10H6Cl2N2O
reactant | triethylamine | 0.44 mmol, 61.2 uL | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 0.2 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate | ClC=1C=CC(=C(C1)C1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C19H23ClN4O3
